US07838675B2
N-{2-[(2,3-Difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}-4-glycylpiperazine-1-sulfonamide, hydrochloride salt
A solution of tert-butyl (2-{4-[({2-[(2,3-difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}amino)sulfonyl]piperazin-1-yl}-2-oxoethyl)carbamate (the product of step ii, 0.19 g) in 10% TFA/DCM (5 mL) was stirred at room temperature for 3 h. The solution was evaporated, and then redissolved in 4N HCl in dioxane (2 mL) and MeOH (8 mL). Evaporation gave a crude residue that was triturated in Et2O, filtered and dried in a vacuum oven at 40° C. overnight to give the title compound as a white solid. Yield: 140 mg.

reactant | tert-butyl (2-{4-[({2-[(2,3-difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}amino)sulfonyl]piperazin-1-yl}-2-oxoethyl)carbamate | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CCN(CC2)C(CNC(OC(C)(C)C)=O)=O)OC)C=CC=C1F | C23H30F2N6O6S2
reactant | TFA DCM | 5 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | N-{2-[(2,3-Difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}-4-glycylpiperazine-1-sulfonamide, hydrochloride salt | Cl.FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CCN(CC2)C(CN)=O)OC)C=CC=C1F | InChI=1S/C18H22F2N6O4S2.ClH/c1-30-15-9-14(22-18(23-15)31-11-12-3-2-4-13(19)17(12)20)24-32(28,29)26-7-5-25(6-8-26)16(27)10-21;/h2-4,9H,5-8,10-11,21H2,1H3,(H,22,23,24);1H
